US07612226B2
(3S,5S)-3-(Cyclopentylmethyl)-3-methyl-5-phenylmorpholin-2-one
The compound was prepared according to the procedure outlined in Preparation 1 using (5S)-3-methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one (1 g, 5.28 mmol, see WO-A-02/051983) and (iodomethyl)cyclopentane. The total amount of compound synthesised was 0.426 g.

reactant | (5S)-3-methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one | CC=1C(OC[C@@H](N1)C1=CC=CC=C1)=O | C11H11NO2
reactant | (iodomethyl)cyclopentane | ICC1CCCC1 | C6H11I
product | (3S,5S)-3-(Cyclopentylmethyl)-3-methyl-5-phenylmorpholin-2-one | C1(CCCC1)C[C@@]1(N[C@H](COC1=O)C1=CC=CC=C1)C | C17H23NO2
